US09260408B2
[B] 6-(5-Amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one hydrochloride
A suspension of 2,2-dimethyl-N-[5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-propionamide (0.195 g, 0.578 mmol) in 1N aqueous HCl (5.78 mL) was heated to 90° C. over night. The reaction mixture was evaporated to dryness and the resulting solid material was triturated in MeOH, filtered off and further dried in a the high vacuum to give the title compound (0.115 g, 69%) as an off white solid as the HCl salt. MS: 254.1 (M+H+).

reactant | 2,2-dimethyl-N-[5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-propionamide | 0.578 mmol, 0.195 g | CC(C(=O)NC=1C=NC=C(C1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C20H23N3O2
reactant | HCl | 1N, 5.78 mL | Cl | ClH
product | 6-(5-Amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one hydrochloride | 0.115 g, 69% | Cl.NC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | InChI=1S/C15H15N3O.ClH/c1-18-14-4-2-10(6-11(14)3-5-15(18)19)12-7-13(16)9-17-8-12;/h2,4,6-9H,3,5,16H2,1H3;1H
